US05237070
A mixture of 5.0 g of 3-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)-4-hydroxybenzoic acid, 0.05 g of 5% palladium on charcoal catalyst, 250 ml of ethanol and 50 ml of tetrahydrofuran was placed on a Paar apparatus. Hydrogen uptake was complete in about 10 minutes. The reaction mixture was filtered to remove catalyst. The filtrate was evaporated to give a tan solid which was recrystallized from a mixture of 40 ml of ethanol and 15 ml of water to give 3.2 g of reddish tan granular 3-(3,5-di-tertiary-butyl-4-hydroxyanilino)-4-hydroxybenzoic acid, m.p. 254.5°-255° C. (dec). Analysis: Calculated for C21H27NO4 : %C, 70.6; %H, 7.6; %N, 3.9; Found: %C, 71.0; %H, 7.6; %N, 4.1.

reactant | 3-(2,6-di-tertiary-butylcyclohexadienon-4-ylideneamino)-4-hydroxybenzoic acid | 5.0 g | C(C)(C)(C)C=1C(C(=CC(C1)=NC=1C=C(C(=O)O)C=CC1O)C(C)(C)C)=O | C21H25NO4
reactant | ethanol | 250 ml | C(C)O | C2H6O
reactant | Hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.05 g | [Pd] | Pd
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3-(3,5-di-tertiary-butyl-4-hydroxyanilino)-4-hydroxybenzoic acid | 3.2 g | C(C)(C)(C)C=1C=C(NC=2C=C(C(=O)O)C=CC2O)C=C(C1O)C(C)(C)C | C21H27NO4
